US06737417B2
Diethyl 2-[5-[4-[(6-hydroxy-2-(4-hydroxyphenyl)benzo-[b]thiophen-3-yl)carbonyl]phenoxy]pentyl]-2-(4,4,5,5,5-pentafluoropentyl)malonate (1.197 g, 1.59 mmol) was dissolved in ethanol (20 ml), and potassium hydroxide (3.58 g, 63.8 mmol) dissolved in water (10 ml) was then added. After stirring for 24 hours at 80° C., the reaction mixture was cooled to room temperature, concentrated under reduced pressure to remove ethanol, adjusted to pH 3 with 3N aqueous hydrochloric acid, and then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to give 2-[5-[4-[(6-hydroxy-2-(4-hydroxyphenyl)benzo-[b]thiophen-3-yl)carbonyl]phenoxy]pentyl]-2-(4,4,5,5,5-pentafluoropentyl)malonic acid (1.1 g) as a brown product, which was then used for the subsequent reaction without further purification.

reactant | Diethyl 2-[5-[4-[(6-hydroxy-2-(4-hydroxyphenyl)benzo-[b]thiophen-3-yl)carbonyl]phenoxy]pentyl]-2-(4,4,5,5,5-pentafluoropentyl)malonate | 1.59 mmol, 1.197 g | OC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(OCCCCCC(C(=O)OCC)(C(=O)OCC)CCCC(C(F)(F)F)(F)F)C=C2)C2=CC=C(C=C2)O)C1 | C38H39F5O8S
reactant | potassium hydroxide | 63.8 mmol, 3.58 g | [OH-].[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 2-[5-[4-[(6-hydroxy-2-(4-hydroxyphenyl)benzo-[b]thiophen-3-yl)carbonyl]phenoxy]pentyl]-2-(4,4,5,5,5-pentafluoropentyl)malonic acid | 1.1 g | OC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(OCCCCCC(C(=O)O)(C(=O)O)CCCC(C(F)(F)F)(F)F)C=C2)C2=CC=C(C=C2)O)C1 | C34H31F5O8S
